US06846813B2
3-[(Dipropylamino)carbonyl]-5-ethylbenzoic acid (IX)
Lithium hydroxide monohydrate (0.0680 g, 1.6 mmol) is added to a mixture of methyl 3-[(dipropylamino)carbonyl]-5-ethylbenzoate (PREPARATION 20, 0.450 g, 1.6 mmol) in a mixture of THF/methanolwater (2/1/1, 8 mL). The mixture is stirred at 20-25 degrees C. for 3 hours. The mixture is then diluted with water (20 mL) and hydrochloric acid (1 N) is added to bring the pH to less than 3. The aqueous mixture is extracted with ethyl acetate. The organic phase is separated and washed with saline, dried over anhydrous magnesium sulfate, filtered and concentrated to give the title compound, MS (ESI+) for C16H23NO3 m/z (M+H)+=278.2.

reactant | Lithium hydroxide monohydrate | 1.6 mmol, 0.0680 g | O.[OH-].[Li+]
reactant | methyl 3-[(dipropylamino)carbonyl]-5-ethylbenzoate | 1.6 mmol, 0.450 g | C(CC)N(C(=O)C=1C=C(C(=O)OC)C=C(C1)CC)CCC | C17H25NO3
solvent | THF | C1CCOC1 | C4H8O
solvent | water | 20 mL | O | H2O
solvent | hydrochloric acid | 1 N | Cl | ClH
product | 3-[(Dipropylamino)carbonyl]-5-ethylbenzoic acid | C(CC)N(C(=O)C=1C=C(C(=O)O)C=C(C1)CC)CCC | C16H23NO3
